US07018997B2
Step 1: (5R, 6RS)-6-[(RS)-Acetoxyimidazo[1,2-a]quinolin-2-ylmethyl]-6-bromo-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitrobenzyl ester:
Imidazo[1,2-a]quinoline-2-carbaldehyde (1.09 g) and a dry THF solution (75.5 mL) of (5R, 6S)-6-bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester (2.22 g) were added successively to a dry acetonitrile (75.5 mL) solution of anhydrous MgBr2 (2.5 g) under an argon atmosphere at room temperature. After cooling to −20° C., Et3N (1.85 mL) was added in one portion. The reaction vessel was covered with foil to exclude light. The reaction mixture was stirred for 2 h at −20° C. and treated with acetic anhydride (1.04 mL) in one portion. The reaction mixture was warmed to 0° C. and stirred for 15 h at 0° C. The mixture was diluted with ethyl acetate and washed with 5% citric acid aqueous solution, saturated sodium hydrogen carbonate, and brine. The organic layer was dried (MgSO4) and filtered through a pad of Celite. The pad was washed with ethyl acetate. The filtrate was concentrated under reduced pressure. The residue was applied to a silica gel column, then the column was eluted with CHCl3-acetone(1/0˜95/5). Collected fractions were concentrated under reduced pressure followed by recrystallization from CHCl3-Et2O to give the title compound as one isomer. (pale yellow crystals, yield: 1.3 g, 38%).

reactant | Imidazo[1,2-a]quinoline-2-carbaldehyde | 1.09 g | C1=C(N=C2N1C1=CC=CC=C1C=C2)C=O | C12H8N2O
reactant | (5R, 6S)-6-bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester | 2.22 g | [N+](=O)([O-])C1=CC=C(COC(=O)C=2N3C([C@@H]([C@H]3SC2)Br)=O)C=C1 | C13H9BrN2O5S
reactant | MgBr2 | 2.5 g | [Mg+2].[Br-].[Br-]
reactant | acetic anhydride | 1.04 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Et3N | 1.85 mL | CCN(CC)CC | C6H15N
solvent | acetonitrile | 75.5 mL | C(C)#N | C2H3N
solvent | THF | 75.5 mL | C1CCOC1 | C4H8O
product | (5R, 6RS)-6-[(RS)-Acetoxyimidazo[1,2-a]quinolin-2-ylmethyl]-6-bromo-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(=O)C=2N3C(C([C@H]3SC2)(Br)C(C=2N=C3N(C4=CC=CC=C4C=C3)C2)OC(C)=O)=O)C=C1 | C27H19BrN4O7S
